US04733002
Preparation of 1-(3,4-dihydroxyphenyl)-3-oxo-1-octene
In 1 ml of dry dichloromethane was dissolved 128 mg of 1-(3,4-dimethoxyphenyl)-3-oxo-1-octene obtained in the above Example 13-(1), and the solution was cooled at -78° C. Then, 1.5 ml of 1N boron tribromide solution in dichloromethane was added dropwise to the solution, and the temperature was restored to room temperature slowly. Then, the reaction mixture was poured in ice-water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried with magnesium sulfate. The solvent was removed by distillation to give crude product. After recrystallization from water/ethanol, 60 mg of the above caption compound was obtained as crystals.

reactant | 1-(3,4-dimethoxyphenyl)-3-oxo-1-octene | 128 mg | COC=1C=C(C=CC1OC)C=CC(CCCCC)=O | C16H22O3
reactant | boron tribromide | 1N, 1.5 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 1-(3,4-dihydroxyphenyl)-3-oxo-1-octene | 60 mg | OC=1C=C(C=CC1O)C=CC(CCCCC)=O | C14H18O3
